US07429659B2
(4-Isopropyl-piperazin-1-yl)-(1-methyl-4-piperidin-1-ylmethyl-1H-pyrrol-2-yl)-methanone.
5-(4-Isopropyl-piperazine-1-carbonyl)-1-methyl-1H-pyrrole-3-carbaldehyde. 4-Formyl-1-methyl-1H-pyrrole-2-carboxylic acid, lithium salt, (1.08 g.) was diluted with thionyl chloride (20 mL) and heated at reflux under nitrogen for 1.5 h. The reaction mixture was carefully concentrated. The residue was co-evaporated with toluene (3×) to remove residual HCl, and then was kept under vacuum for 2 h. Separately, a solution of 1-isopropyl-piperazine dihydrochloride (1.21 g, 6.00 mmol) in DCM (50 mL) was cooled to 0-5° C. TEA (2.23 mL, 24.0 mmol) was added slowly, followed by the above acid chloride solution in DCM (50 mL). The resulting mixture was allowed to stir overnight at rt. The mixture was concentrated to yield the crude product (3.78 g), which was purified on silica gel column using 2-6% 2 M NH3 in MeOH/DCM to yield the title compound (0.20 g).

reactant | 5-(4-Isopropyl-piperazine-1-carbonyl)-1-methyl-1H-pyrrole-3-carbaldehyde | C(C)(C)N1CCN(CC1)C(=O)C1=CC(=CN1C)C=O | C14H21N3O2
reactant | 4-Formyl-1-methyl-1H-pyrrole-2-carboxylic acid | C(=O)C=1C=C(N(C1)C)C(=O)O | C7H7NO3
reactant | lithium | [Li] | Li
reactant | 1-isopropyl-piperazine dihydrochloride | 6.00 mmol, 1.21 g | Cl.Cl.C(C)(C)N1CCNCC1
solvent | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (4-Isopropyl-piperazin-1-yl)-(1-methyl-4-piperidin-1-ylmethyl-1H-pyrrol-2-yl)-methanone | 0.20 g | C(C)(C)N1CCN(CC1)C(=O)C=1N(C=C(C1)CN1CCCCC1)C | C19H32N4O
